US07094779B2
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(2-propanon-1-yl)piperazine (255 mg), O-[2-(dimethylamino)ethyl]hydroxylamine dihydrochloride (89 mg), sodium acetate (catalytically), and methanol (10 mL) was heated under reflux for 2 h. The solvent was removed in vacuo, and the residue was treated with dichloromethane and NAOH (aq, 2N). The layers were separated, the organic layer was dried and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, CH2Cl2/MeOH/NH4OH 92/7.5/0.5) to afford 1-{(2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazin-4-yl}-2-propanone O-[2-(dimethylamino)-ethyl]oxime 0.31 g (>95%) as an E/Z mixture. Rf 0.26 (CH2Cl2/MeOH/NH4OH 92/7.5/0.5).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(2-propanon-1-yl)piperazine | 255 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(C)=O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C25H23F6N3O2
reactant | O-[2-(dimethylamino)ethyl]hydroxylamine dihydrochloride | 89 mg | Cl.Cl.CN(CCON)C
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 1-{(2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazin-4-yl}-2-propanone O-[2-(dimethylamino)-ethyl]oxime | 0.31 g, >95% | CN(CCON=C(CN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12)C)C | C29H33F6N5O2
